US08859534B2
Ethyl 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate
Ethyl 7-bromobenzofuran-2-carboxylate (0.900 g, 3.34 mmol) and 1-(2-(pyridin-2-yl)ethyl)piperazine (0.672 g, 3.51 mmol) were mixed in dry degassed dioxane (13 mL). To this mixture cesium carbonate (1.417 g, 4.35 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (0.159 g, 0.33 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.153 g, 0.17 mmol) were added under argon and the reaction was heated at 95° C. over night. Water and DCM were added and the layers were separated. The aq phase was extracted with DCM (3×). The combined organic phases were washed with water, dried (MgSO4), filtered and evaporated. The crude product was purified by flash chromatography. (SiO2; DCM/MeOH 95/5) to give 0.507 g (40%) of the title compound.

reactant | Ethyl 7-bromobenzofuran-2-carboxylate | 3.34 mmol, 0.900 g | BrC1=CC=CC=2C=C(OC21)C(=O)OCC | C11H9BrO3
reactant | 1-(2-(pyridin-2-yl)ethyl)piperazine | 3.51 mmol, 0.672 g | N1=C(C=CC=C1)CCN1CCNCC1 | C11H17N3
reactant | cesium carbonate | 4.35 mmol, 1.417 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.33 mmol, 0.159 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.17 mmol, 0.153 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | Ethyl 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate | 0.507 g, 40% | N1=C(C=CC=C1)CCN1CCN(CC1)C1=CC=CC=2C=C(OC21)C(=O)OCC | C22H25N3O3
